US06235791B1
1-(3-Nitro-4-cyclohexylphenyl)-3-(4-phenylpiperidino)propanone
12.3 g of 3-nitro-4-cyclohexylacetophenone, 9.85 g of 4-phenylpiperidine, 7.5 g of paraformaldehyde and 1.5 ml of concentrated hydrochloric acid are dissolved in 100 ml of 1,2-dimethoxyethane and the reaction mixture is then heated at reflux with stirring for 6 hours. The reaction mixture is then left overnight at room temperature, after which a precipitate is separated out by filtration and washed successively with ethyl acetate and then with diethyl ether in order to give 17 g of the expected compound.

reactant | 3-nitro-4-cyclohexylacetophenone | 12.3 g | [N+](=O)([O-])C1CCCCC1CC(=O)C1=CC=CC=C1 | C14H17NO3
reactant | 4-phenylpiperidine | 9.85 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | paraformaldehyde | 7.5 g | C=O | CH2O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 1-(3-Nitro-4-cyclohexylphenyl)-3-(4-phenylpiperidino)propanone | 17 g | [N+](=O)([O-])C=1C=C(C=CC1C1CCCCC1)CC(CN1CCC(CC1)C1=CC=CC=C1)=O | C26H32N2O3
